US07314511B2
3,6-Bis(4′-methylphenylsulfonyloxy) phthalonitrile
p-Toluenesulfonyl chloride (25.80 g, 135 mmol) was added to a suspension of 2,3-dicyanohydroquinone (10.00 g, 62.5 mmol) and potassium carbonate (34.50 g, 250 mmol) in acetone (75 mL). The temperature of the flask rose rapidly, which stabilised after 2 minutes. The mixture was then heated to reflux and stirred for 2 hours. TLC (eluting: CH2Cl2) indicated that all the starting 2,3-dicyanohydroquinone had been consumed. The mixture was allowed to cool to room temperature, and was poured into water (200 mL), and the mixture stirred for 1 hour. Filtration gave the title compound (Product A) as a colourless solid, which was washed with more water (˜30 mL) and pulled dry. The solid was then dried in an oven (28.36 g, 97%). This material was used without further purification. [Found: C, 55.8%; H, 3.3%; N, 6.0%; S, 13.5%; C22H16O6N2S2 requires C, 56.4%; H, 3.4%; N, 6.0%; S, 13.7%]; MS (EI+) 468 (M+, 80%), 155 (CH3C6H4SO2, 100%), 91 (CH3C6H4, 90%).

reactant | p-Toluenesulfonyl chloride | 135 mmol, 25.80 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,3-dicyanohydroquinone | 62.5 mmol, 10.00 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | potassium carbonate | 250 mmol, 34.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 3,6-Bis(4′-methylphenylsulfonyloxy) phthalonitrile | CC1=CC=C(C=C1)S(=O)(=O)OC1=C(C(C#N)=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C)C#N | C22H16N2O6S2
